US05380834
22 g of 1,6-anhydro-3-bromo-3,4-dideoxy-β-D-glycero-hex-3-enopyranos-2-ulose was dissolved in 500 ml of dry benzene, and 66 g of ethylene glycol and 3 g of p-toluenesulfonic acid monohydrate were added thereto. The mixture was refluxed under heating while removing formed water. 19 hours later, disappearance of the starting material was confirmed by TLC, and the reaction mixture was cooled to room temperature. Then, 500 ml of ethyl acetate was added thereto, and the mixture was washed three times with 200 ml of a saturated sodium chloride aqueous solution. The organic layer was dried over anhydrous sodium sulfate, and then the solvent was distilled off under reduced pressure. The obtained crude crystals were purified by silica gel column chromatography (ethyl acetate: hexane=1:1) to obtain 20 g of 1,6-anhydro-3-bromo-3,4-dideoxy-β-D-glycero-hex-3-enopyranos-2-ulose ethylene acetal as white crystals. The NMR analytical data of this product are as follows.

reactant | 1,6-anhydro-3-bromo-3,4-dideoxy-β-D-glycero-hex-3-enopyranos-2-ulose | 22 g | BrC=1C([C@H]2O[C@@H](C1)CO2)=O | C6H5BrO3
reactant | ethylene glycol | 66 g | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid monohydrate | 3 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
product | 1,6-anhydro-3-bromo-3,4-dideoxy-β-D-glycero-hex-3-enopyranos-2-ulose ethylene acetal | 20 g | C1COC2([C@H]3O[C@@H](C=C2Br)CO3)O1 | C8H9BrO4
